US06251925B1
Diisobutylaluminum hydride (56.5 mL, 1.5 M in toluene) was added dropwise over 1 h to a cooled (−78° C.) solution of methyl (R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanoate (14.81 g) in toluene (150 mL) under nitrogen. The resulting colorless solution was stirred at this temperature for 1 h, before a saturated aqueous solution of Rochelle's salt (70 mL) was added dropwise. The resulting mixture was allowed to warm to room temperature, and was then diluted with ethyl acetate. The biphasic system was filtered through celite, rinsing with water and ethyl acetate . The filtrate was separated into its two layers, and the aqueous layer was extracted with ethyl acetate. The extract and the organic layer of the filtrate were combined, washed with saturated aqueous sodium chloride solution, dried (magnesium sulfate), and concentrated to afford (2R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanal as a colorless oil (13.36 g). Based on its 1H-NMR spectrum, the title compound made up ca. 50% of the oil.

reactant | Diisobutylaluminum hydride | 1.5 M, 56.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl (R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanoate | 14.81 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C(=O)OC)C1=CC(=CC(=C1)Cl)Cl | C15H22Cl2O3Si
reactant | Rochelle's salt | 70 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-2-[tert-butyl(dimethyl)silyl]oxy-2-(3,5-dichlorophenyl)ethanal | 13.36 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C=O)C1=CC(=CC(=C1)Cl)Cl | C14H20Cl2O2Si
